US07601844B2
Step 1: Methyl 3-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamoyl)benzoate
(R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride (52.4 mg, 0.14 mmol), methyl 3-(chlorocarbonyl)benzoate (33 mg, 0.17 mmol), THF (5 mL), and diispropylethylamine (135 mg, 1.1 mmol) were stirred overnight at rt. The reaction was concentrated and the product isolated as a white solid using preparative reverse-phase HPLC.

reactant | (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride | 0.14 mmol, 52.4 mg | [Cl-].ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)[NH3+])=O)(C)C)O
reactant | methyl 3-(chlorocarbonyl)benzoate | 0.17 mmol, 33 mg | ClC(=O)C=1C=C(C(=O)OC)C=CC1 | C9H7ClO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 3-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamoyl)benzoate | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)NC(=O)C=1C=C(C(=O)OC)C=CC1)=O)(C)C)O | C26H31ClN2O5
